US08349824B2
To a suspension of 1-amino-4-(methoxycarbonyl)-3-methylpyridinium2,4,6-trimethylbenzenesulfonate (2.409 g, 6.57 mmol) in ethanol (40 ml) are added benzonitrile (675 μl, 6.57 mmol), copper(II) acetate monohydrate (1.31 g, 6.57 mmol) and finally potassium hydroxide (2M in ethanol, 3.62 ml, 7.23 mmol). The resulting mixture is heated to 90° C. and stirred for 18 hours under air atmosphere while air was slightly bubbled through the reaction mixture. The dark green mixture is poured on sat. aqueous sodium bicarbonate solution (100 ml) and stirred for 5 minutes, then extracted twice with ethyl acetate (filtration over dicalite is required because of emulsion). The combined organic layers are washed twice with water and brine, dried with magnesium sulfate and the solvent is evaporated. The crude material is loaded on silica and separated by flash chromatography on a 70 g silica column using heptane/ethyl acetate 10-30% as eluent affording methyl 8-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylate (634 mg, 36%) as a white solid (MS: m/z=268.1 (M+H+) and methyl 6-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylate (112 mg, 6.37%) as a white solid. MS: m/z=268.1 (M+H+).

reactant | 1-amino-4-(methoxycarbonyl)-3-methylpyridinium2,4,6-trimethylbenzenesulfonate | 6.57 mmol, 2.409 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)[O-].N[N+]1=CC(=C(C=C1)C(=O)OC)C
reactant | benzonitrile | 6.57 mmol, 675 μl | C(C1=CC=CC=C1)#N | C7H5N
reactant | potassium hydroxide | 7.23 mmol, 2M, 3.62 ml | [OH-].[K+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | copper(II) acetate monohydrate | 6.57 mmol, 1.31 g | O.C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | methyl 8-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylate | 634 mg, 36% | CC=1C=2N(C=CC1C(=O)OC)N=C(N2)C2=CC=CC=C2 | C15H13N3O2
